US07084169B2
2-Benzenesulfonyl-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-indole-1-carboxylic acid tert-butyl ester (0.250 g., 0.5 mmol) from Step 3 was dissolved in 5 mL EtOH. To this solution was added 1 mL of 2M ethanolic hydrogen chloride solution. The reaction mixture was heated at 100° C. for 35 minutes. Upon cooling to ambient temperature, a fine white precipitate was observed. After filtration and drying in vacuo at 60° C., [2-(2-benzenesulfonyl-1H-indol-4-yloxy)-ethyl]-methyl-amine hydrochloride was obtained. MS: 330 (M+H)+, mp=250.7–252.1° C.

reactant | 2-Benzenesulfonyl-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-indole-1-carboxylic acid tert-butyl ester | 0.5 mmol, 0.250 g | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)OCCN(C)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C27H34N2O7S
reactant | hydrogen chloride | 2M, 1 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | [2-(2-benzenesulfonyl-1H-indol-4-yloxy)-ethyl]-methyl-amine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C=1NC2=CC=CC(=C2C1)OCCNC | InChI=1S/C17H18N2O3S.ClH/c1-18-10-11-22-16-9-5-8-15-14(16)12-17(19-15)23(20,21)13-6-3-2-4-7-13;/h2-9,12,18-19H,10-11H2,1H3;1H
